US03957803
1,2-DIPHENYL-4-BUTYL-5-(3'-CARBOXYPYRIDYL)-4-PYRAZOLIN-3-ONE
Phenylbutazone (1,2-diphenyl-3,5-pyrazolidinedione; 11.00 g, 0.035 mole) was treated with 11.55 g (0.055 mole) of trifluoroacetic anhydride. The resulting solid suspension was shaken or mechanically stirred until a homogeneous solution was obtained, then it was stirred with a magnetic stirrer at room temperature in a tightly closed flask for one hour. The solution was concentrated in vacuo for one hour and the oily residue obtained was dissolved in 50 ml of acetone and allowed to react with 12.5 g (0.055 mole) of nicotinic anhydride. The initial suspension became homogeneous after 0.25 hours with concomitant formation of a yellow color. After an additional one hour at room temperature, the yellow solution was concentrated in vacuo and the residue was dissolved in 200 ml of dichloromethane. The dichloromethane solution was extracted first with an aqueous sodium bicarbonate solution (12.2 g, 0.145 mole in 150 ml), then with an aqueous sodium hydroxide solution (28 g, 0.07 mole in 56 ml) and subsequently dried over sodium sulfate. The dichloromethane solution was concentrated in vacuo and the residue was crystallized from dichloromethane petroleum ether bp 30°-60° C to give 11.16 g (mp 139°-141° C, 77.5% yield) of the title compound.

reactant | Phenylbutazone | 0.035 mole, 11.00 g | CCCCC1C(=O)N(N(C1=O)C=2C=CC=CC2)C=3C=CC=CC3 | C19H20N2O2
reactant | trifluoroacetic anhydride | 0.055 mole, 11.55 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | nicotinic anhydride | 0.055 mole, 12.5 g | C(C1=CN=CC=C1)(=O)OC(C1=CN=CC=C1)=O | C12H8N2O3
reactant | sodium bicarbonate | 0.145 mole, 150 ml, 12.2 g | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 0.07 mole, 56 ml, 28 g | [OH-].[Na+]
reactant | sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1,2-DIPHENYL-4-BUTYL-5-(3'-CARBOXYPYRIDYL)-4-PYRAZOLIN-3-ONE | 11.16 g, 77.5% yield | C1(=CC=CC=C1)N1N(C(C(=C1C1=NC=CC=C1C(=O)O)CCCC)=O)C1=CC=CC=C1 | C25H23N3O3
